US08530477B2
Methanesulfonic acid 4-(4-methanesulfonylpiperazin-1-yl)phenyl ester (3.2 g, 9.5 mmol) is placed in 29 ml of a 1N aqueous solution of sodium hydroxide. The reaction medium is stirred at reflux for 48 h. Acetic acid is added at ambient temperature to pH 4. The precipitate formed is filter-dried and washed with water and then dried over P2O5. 2.6 g of expected 4-(4-methanesulfonylpiperazin-1-yl)phenol are obtained.

reactant | Methanesulfonic acid 4-(4-methanesulfonylpiperazin-1-yl)phenyl ester | 9.5 mmol, 3.2 g | CS(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)OS(=O)(=O)C | C12H18N2O5S2
reactant | sodium hydroxide | [OH-].[Na+]
solvent | Acetic acid | C(C)(=O)O | C2H4O2
product | 4-(4-methanesulfonylpiperazin-1-yl)phenol | 2.6 g | CS(=O)(=O)N1CCN(CC1)C1=CC=C(C=C1)O | C11H16N2O3S
